chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Br-:2].[Br:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([H:11])[H:21]>>[Br-:1].[Br:2][H:3].[C:4](=[C:5]([H:11])[H:21])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43],30.02625984720504
[Br:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[C:4](=[C:5](/[H:11])[C:21]([H:22])([H:23])[H:24])(\[C:31]#[N:32])[C:41]([H:42])([H:43])[H:44].[F:2][H:3],4.7718236832139125
[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24])([H:31])[H:41].[Cl-:1].[H:2][H:3],7.671441157259996
[Cl-:2].[Cl:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[C:21]#[N:22]>>[Cl-:1].[Cl:2][C@@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[C:21]#[N:22],24.44879516020204
[Br:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23])(\[C:31]#[N:32])[N:41]([H:42])[H:43].[H:2][H:3],2.9712549028102044
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44].[H:2][H:3],5.726925277222017
[F:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],7.605925393074791
[Cl-:2].[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([H:11])[C:21]([H:22])([H:23])[H:24]>>[C:4](=[C:5]([H:11])[C:21]([H:22])([H:23])[H:24])([H:31])[H:41].[Cl-:1].[Cl:2][H:3],44.283328505694726
[Cl:1][C@:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([H:11])[C:21]#[N:22].[F-:2]>>[C:4](=[C:5](/[H:11])[C:21]#[N:22])(\[H:31])[C:41]#[N:42].[Cl-:1].[F:2][H:3],4.8989337305044485
[Br:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N+:11]([O-:12])[O:13])[C:21]#[N:22].[H-:2]>>[Br-:1].[C:4](=[C:5](/[N+:11]([O-:12])[O:13])[C:21]#[N:22])(\[N:31]([H:32])[H:33])[H:41].[H:2][H:3],7.285806645079987
[F:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[H:21].[H-:2]>>[C:4](=[C:5]([N:11]([H:12])[H:13])[H:21])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],18.13507069660778
[Br:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([C:11]#[N:12])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[H:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([C:11]#[N:12])[N:21]([H:22])[H:23],8.319706311724289
[Br:1][C@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([N+:11]([O-:12])[O:13])[H:21].[H-:2]>>[Br-:1].[C:4](=[C:5](/[N+:11]([O-:12])[O:13])[H:21])(\[H:31])[N+:41]([O-:42])[O:43].[H:2][H:3],3.026440954572216
[F-:2].[F:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C@@:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24],11.123743039296922
[Cl:1][C@:5]([C:4]([H:3])([H:31])[H:41])([H:11])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([H:11])[N:21]([H:22])[H:23])([H:31])[H:41].[Cl-:1].[H:2][H:3],15.910106782314145
[F-:2].[F:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C@@:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24],40.08012632038193
[Cl:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[H-:2]>>[Cl-:1].[H:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],8.373524619347073
[Cl-:2].[Cl:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23]>>[Cl-:1].[Cl:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],41.63978922521213
[Br:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]#[N:12])[C:21]#[N:22].[F-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([C:31]([H:32])([H:33])[H:34])[H:41].[F:2][H:3],4.584851259752061
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[H:21]>>[Br:2][C@@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[H:21].[Cl-:1],25.227643011477927
[F:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[H-:2]>>[C:4](=[C:5]([H:11])[H:21])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[F-:1].[H:2][H:3],15.276578616344766
[Br:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[Cl-:2]>>[Br-:1].[Cl:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21],18.39987516523383
